US07087626B2
Ethyl 5-fluoropyridine-2-carboxylate
A mixture of 2-bromo-5-fluoropyridine (5.00 g, 28.4 mmol), sodium acetate (9.33 g, 114 mmol), and 1-1′bis(diphenylphosphino)ferrocene]dichloropalladium(II):CH2Cl2 (0.464 g, 0.57 mmol) in ethanol (80 mL) in a Parr® high pressure stainless steel reactor vessel is placed under an atmosphere of 50 psi carbon monoxide and heated at 80-100° C. for 4 h. The vessel is cooled, volatiles removed in vacuo, and the residue partitioned between ethyl acetate and water. The ethyl acetate extract is washed with water and brine, dried over sodium sulfate, filtered, and evaporated to give a dark solid. The residue is chromatographed on SiO2 (10% ethyl acetate/hexanes) to yield the title compound 2.8 g (58%) as a white solid that is recrystallized from hexanes to give white crystals: mp 61-63° C.

reactant | 2-bromo-5-fluoropyridine | 28.4 mmol, 5.00 g | BrC1=NC=C(C=C1)F | C5H3BrFN
reactant | sodium acetate | 114 mmol, 9.33 g | C(C)(=O)[O-].[Na+]
reactant | CH2Cl2 | 0.57 mmol, 0.464 g | C(Cl)Cl | CH2Cl2
reactant | carbon monoxide | [C]=O | CO
reactant | ethanol | 80 mL | C(C)O | C2H6O
catalyst | dichloropalladium(II) | Cl[Pd]Cl
product | Ethyl 5-fluoropyridine-2-carboxylate | 2.8 g, 58% | FC=1C=CC(=NC1)C(=O)OCC | C8H8FNO2
